US05462954
3-(2-(3-(2-Butyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionic acid
A solution of ethyl 3-(2-(3-(2-butyl-4-(4-fluorophenyl)-5-methoxyphenoxy)propoxy)phenyl)propionate and 5 equivalents of sodium ethanthiolate in dimethylformamide was heated at 110° C. for 2 hours, cooled, diluted with aqueous hydrochloric acid, and extracted with ethyl acetate. The organic solution was washed with water, dried, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with ethyl ether and with ethyl acetate providing the desired title product in 66% yield. NMR.

reactant | ethyl 3-(2-(3-(2-butyl-4-(4-fluorophenyl)-5-methoxyphenoxy)propoxy)phenyl)propionate | C(CCC)C1=C(OCCCOC2=C(C=CC=C2)CCC(=O)OCC)C=C(C(=C1)C1=CC=C(C=C1)F)OC | C31H37FO5
reactant | sodium ethanthiolate | 5 equivalents | C(C)[S-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
product | 3-(2-(3-(2-Butyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionic acid | 66% yield | C(CCC)C1=C(OCCCOC2=C(C=CC=C2)CCC(=O)O)C=C(C(=C1)C1=CC=C(C=C1)F)O | C28H31FO5
